US07696240B2
To a solution of 3-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester (50 mg, from Exp. 64.2.) in dimethylformamide (1.5 ml) was added NaH (1.3 eq.), the mixture was stirred at 22° C. for 30 min. and cooled to 0° C. Ethylbromo acetate (33 mg) was added, the mixture was stirred for 2 h and partitioned between aqueous NH4Cl and AcOEt. The organic layer was dried, evaporated and the residue was chromatographed on silica (n-heptane/AcOEt, 10:1) to give 1-ethoxycarbonylmethyl-3-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester which was hydrolyzed as described in the general procedure B (Exp. 2.2) to give the title compound as a white solid. MS: 358.2 ([M−H]−).

reactant | 3-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester | 50 mg | C(C)OC(=O)C=1NC2=CC=CC=C2C1CC1=CC=CC2=CC=CC=C12 | C22H19NO2
reactant | NaH | 1.3 eq. | [H-].[Na+]
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 1-ethoxycarbonylmethyl-3-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1CC1=CC=CC2=CC=CC=C12)CC(=O)OCC | C26H25NO4
